US09315467B2
Preparation of 3-[2-(4-Isopropyl-phenyl)-pyrimidin-4-yl]-benzamide (Compound 4)
A mixture of 3-[2-(4-isopropyl-phenyl)-pyrimidin-4-yl]-benzonitrile (50 mg, 0.167 mmol) and aq. H2SO4 (257 μL, 0.65 M) is heated to 70° C. for 12 h. The mixture is cooled and adjusted to pH 7 with aq. sodium hydroxide (1 M). The mixture is partitioned between water and ethyl acetate, and the organic layer is washed with satd. aq. sodium chloride solution, dried over magnesium sulfate, filtered and evaporated to afford the title compound as a white crystalline solid (52 mg, 98%), m.p. 167-169° C. 1H NMR (300 MHz, acetone-d6): δ 8.91 (1H, d, J=6 Hz), 8.87 (1H, t, J=2 Hz), 8.54 (2H, d, J=9 Hz), 8.52 (1H, ddd, J=8, 2, 1 Hz), 8.15 (1H, ddd, J=8, 2, 1 Hz), 7.93 (1H, d, J=6 Hz), 7.80 (1H, br s), 7.68 (1H, t, J=8 Hz), 7.41 (2H, d, J=9 Hz), 6.96 (1H, br s), 3.01 (1H, heptet, J=7 Hz), 1.30 (6H, d, J=7 Hz). 13C NMR (acetone-d6): δ 205.9, 168.4, 164.8, 163.4, 159.0, 152.4, 137.8, 136.2, 135.9, 130.6 (2C), 129.7, 128.9, 127.2 (2C), 126.8, 115.4, 34.7, 24.1 (2C). MS (ES+): m/e 319 (25), 318 (100).

reactant | 3-[2-(4-isopropyl-phenyl)-pyrimidin-4-yl]-benzonitrile | 0.167 mmol, 50 mg | C(C)(C)C1=CC=C(C=C1)C1=NC=CC(=N1)C=1C=C(C#N)C=CC1 | C20H17N3
reactant | H2SO4 | 0.65 M, 257 μL | OS(=O)(=O)O | H2O4S
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
product | 3-[2-(4-Isopropyl-phenyl)-pyrimidin-4-yl]-benzamide | 52 mg, 98% | C(C)(C)C1=CC=C(C=C1)C1=NC=CC(=N1)C=1C=C(C(=O)N)C=CC1 | C20H19N3O
